US07049312B1
Synthesis of 3-dimethylaminomethyl-7-indolcarboxaldehyde
A mixture of 7-indolcarboxaldehyde (0.25 g, 1.7 mmol) and Eschenmoser's salt (0.35 g, 1.9 mmol) in dry acetonitrile (10 ml) was heated under reflux for 2½h. After cooling, solvent was removed under reduced pressure and water was added to the residue. The cooled mixture (ice bath) was made alkaline with 10% sodium hydroxide and then extracted with dichloromethane. The combined organic extracts were washed with brine, dried over anhydrous magnesium sulfate and evaporated to afford 0.25 g (74%) of the entitled product.

reactant | 7-indolcarboxaldehyde | 1.7 mmol, 0.25 g | N1C=CC2=CC=CC(=C12)C=O | C9H7NO
reactant | Eschenmoser's salt | 1.9 mmol, 0.35 g | C[N+](=C)C.[I-]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-dimethylaminomethyl-7-indolcarboxaldehyde | 0.25 g, 74% | CN(C)CC1=CNC2=C(C=CC=C12)C=O | C12H14N2O
